US07550468B2
A solution of benzenesulfonyl chloride, piperazine and methanol allows us to obtain benzenesulfonyl piperazine. This product is dissolved into methanol and replaced with compound A (N-7-bromoethyl 3-isobutyl-1-methylxanthine) to obtain compound 21. By replacing the ethyl bromide with propyl bromide, compounds 22 and 23 can be produced. By replacing p-toluene-sulfonyl chloride or o-toluenesulfonyl chloride with benzenesulfonyl chloride, compounds 24, 25, or 26 may be produced.

reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | methanol | CO | CH4O
product | benzenesulfonyl piperazine | C1(=CC=CC=C1)S(=O)(=O)N1CCNCC1 | C10H14N2O2S
